US08124606B2
Compound 106: (R)—N-ethyl-3-fluoro-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
To a suspension of (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one (146 mg, 0.581 mmol) in propiononitrile (1.2 mL) was added (cyanomethyl)trimethylphosphonium iodide (169 mg, 0.697 mmol) and N-ethyl-3-fluoro-4-(piperazin-1-yl)benzamide hydrochloride (167 mg, 0.581 mmol) and DIEA (304 μl, 1.743 mmol)). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic). The fractions were collected, concentrated until a precipitate was visible and filtered. The solids were washed with water and collected to retrieve the product as a white solid (97 mg, 34% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.66 (s, 1H), 8.35 (t, J=5.6 Hz, 1H), 7.69 (d, J=1.8 Hz, 1H), 7.55-7.65 (m, 2H), 6.97-7.08 (m, 2H), 4.88 (dt, J=13.6, 2.7 Hz, 1H), 4.27 (dd, J=10.9, 3.0 Hz, 1H), 3.38 (d, J=2.0 Hz, 2H), 3.20-3.30 (m, 2H), 2.95-3.15 (m, 5H), 2.65-2.87 (m, 3H), 2.51 (br. s., 4H), 2.45 (dd, J=13.4, 1.8 Hz, 1H), 1.09 (t, J=7.2 Hz, 3H). [M+H] calc'd for C24H29FN6O2S, 484. found, 484.

reactant | (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one | 0.581 mmol, 146 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C11H13N3O2S
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.697 mmol, 169 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-3-fluoro-4-(piperazin-1-yl)benzamide hydrochloride | 0.581 mmol, 167 mg | Cl.C(C)NC(C1=CC(=C(C=C1)N1CCNCC1)F)=O
reactant | DIEA | 1.743 mmol, 304 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (R)—N-ethyl-3-fluoro-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 97 mg, 34% yield | C(C)NC(C1=CC(=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O)F)=O | C24H29FN6O2S
